US09102607B2
5.9 g (28 mmol) of 2-(ethoxycarbonyloxy)benzoic acid are dissolved in 30 ml of toluene with a few drops of pyridine. 2.15 ml (29 mmol) of thionyl chloride are added dropwise and the mixture is stirred at ambient temperature for 18 h and then concentrated to dryness. The residue is precipitated from pentane. The solid is filtered off and then dried. 5.2 g of 2-(ethoxycarbonyloxy)benzoyl chloride are obtained in the form of a white solid with a yield of 80%.

reactant | 2-(ethoxycarbonyloxy)benzoic acid | 28 mmol, 5.9 g | C(C)OC(=O)OC1=C(C(=O)O)C=CC=C1 | C10H10O5
reactant | thionyl chloride | 29 mmol, 2.15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine | a few drops | N1=CC=CC=C1 | C5H5N
product | 2-(ethoxycarbonyloxy)benzoyl chloride | 5.2 g, yield of 80% | C(C)OC(=O)OC1=C(C(=O)Cl)C=CC=C1 | C10H9ClO4
